US09353108B2
E) 2-Cyclopropyl-5-ethoxy-2′-fluorobiphenyl-4-carbaldehyde
Manganese dioxide (1.61 g) was added to a toluene (10 mL) solution of (2-cyclopropyl-5-ethoxy-2′-fluorobiphenyl-4-yl)methanol (1.06 g), and the mixture was stirred at 60° C. for 1 hour. Manganese dioxide (0.965 g) was further added to the reaction mixture, and the mixture was stirred at 60° C. for 30 minutes. The reaction mixture was filtered, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (955 mg).

reactant | (2-cyclopropyl-5-ethoxy-2′-fluorobiphenyl-4-yl)methanol | 1.06 g | C1(CC1)C1=C(C=C(C(=C1)CO)OCC)C1=C(C=CC=C1)F | C18H19FO2
catalyst | Manganese dioxide | 1.61 g | [O-2].[O-2].[Mn+4]
catalyst | Manganese dioxide | 0.965 g | [O-2].[O-2].[Mn+4]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Cyclopropyl-5-ethoxy-2′-fluorobiphenyl-4-carbaldehyde | 955 mg | C1(CC1)C1=C(C=C(C(=C1)C=O)OCC)C1=C(C=CC=C1)F | C18H17FO2
